US06821967B2
c. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
23 g (0.063 mol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride are added dropwise to a solution of 9.35 g (0.069 mol) of 2,2,2-trifluoroethylamine-hydrochloride and 26 ml (0.188 mol) of triethylamine in 550 ml of dichloromethane at 0° C. under nitrogen and stirred for 2 hours at ambient temperature. The reaction mixture is extracted twice each with water, 1N hydrochloric acid and sodium hydrogen carbonate solution. The organic phase is dried over sodium sulphate and the solvent is distilled off. The product is purified by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=8:1).

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | 0.063 mol, 23 g | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
reactant | 2,2,2-trifluoroethylamine-hydrochloride | 0.069 mol, 9.35 g | Cl.FC(CN)(F)F
reactant | triethylamine | 0.188 mol, 26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 550 ml | ClCCl | CH2Cl2
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
